US04219559
A mixture of 3.2 parts of N-[1-(2-phenylethyl)-4-piperidinyl]-1H-benzimidazol-2-amine, 2.9 parts of [2-(2-thienyl)ethyl] 4-methylbenzenesulfonate, 1 part of sodium carbonate and 135 parts of 4-methyl-2-pentanone is stirred and refluxed overnight with water-separator. The reaction mixture is poured onto water and the layers are separated. The organic phase is dried, filtered and evaporated. The residue is purified by column-chromatography over silica gel using a mixture of trichloromethane and methanol (98:2 by volume) as eluent. The pure fractions are collected and the eluent is evaporated. The residue is crystallized from a mixture of 2,2'-oxybispropane and 2-propanone, yielding 1 part (23.2%) of N-[1-(2-phenylethyl)-4-piperidinyl]-1-[2-(2-thienyl)ethyl]-1H-benzimidazol-2-amine; mp. 118.3° C.

reactant | N-[1-(2-phenylethyl)-4-piperidinyl]-1H-benzimidazol-2-amine | C1(=CC=CC=C1)CCN1CCC(CC1)NC1=NC2=C(N1)C=CC=C2 | C20H24N4
reactant | [2-(2-thienyl)ethyl] 4-methylbenzenesulfonate | CC1=CC=C(C=C1)S(=O)(=O)OCCC=1SC=CC1 | C13H14O3S2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | 4-methyl-2-pentanone | CC(CC(C)=O)C | C6H12O
solvent | water | O | H2O
product | N-[1-(2-phenylethyl)-4-piperidinyl]-1-[2-(2-thienyl)ethyl]-1H-benzimidazol-2-amine | 23.2% | C1(=CC=CC=C1)CCN1CCC(CC1)NC1=NC2=C(N1CCC=1SC=CC1)C=CC=C2 | C26H30N4S
